US07977344B2
2-{[1-Methyl-2-(methoxy)ethyl]oxy}-8-(methoxy)-9-(tetra hydro-2H-Pyran-2-yl)-9H-purin-6-amine
Sodium (1.16 g, 50.5 mmol) was dissolved in methanol (40 ml) and 8-bromo-2-{[1-methyl-2-(methoxy)ethyl]oxy}-9-(tetrahydro-2H-pyran-2-yl)-9H-purin-6-amine (6.5 g, 16.8 mmol) added with stirring. The mixture was heated to reflux for 2 h. The solvent was removed by evaporation. The residue was purified on a silica column using DCM: MeOH 150:1 as eluent. This gave product (4.7 g, 82.9%).

reactant | Sodium | 50.5 mmol, 1.16 g | [Na] | Na
reactant | 8-bromo-2-{[1-methyl-2-(methoxy)ethyl]oxy}-9-(tetrahydro-2H-pyran-2-yl)-9H-purin-6-amine | 16.8 mmol, 6.5 g | BrC=1N(C2=NC(=NC(=C2N1)N)OC(COC)C)C1OCCCC1 | C14H20BrN5O3
reactant | methanol | 40 ml | CO | CH4O
product | 2-{[1-Methyl-2-(methoxy)ethyl]oxy}-8-(methoxy)-9-(tetra hydro-2H-Pyran-2-yl)-9H-purin-6-amine | CC(COC)OC1=NC(=C2N=C(N(C2=N1)C1OCCCC1)OC)N | C15H23N5O4
